US07592143B2
A solution of methyl iodide (29 μL, 0.477 mmol) in 1.0 mL of N,N-dimethylformamide was added to a solution of gambogic acid (0.200 g, 0.318 mmol) and 1,8-diazabicyclo[5.4.0]undec-7-ene (47.6 μL, 0.318 mmol) in 0.2 mL of N,N-dimethylformamide and the mixture was stirred at room temperature for 3 h. The reaction mixture was poured into brine (30 mL) and was extracted with methylene chloride. The organic layer was wash with brine (2×30 mL) and the combined organic extracts were dried over MgSO4 and concentrated in vacuo to give the crude product. It was purified by column chromatography (18×2 cm column, SiO2, EtOAc/Hexane 1:5) to afford the methyl gambogate as an orange solid (0.14 g, 69 %). 1H NMR (CDCl3): 12.85 (s, 1H), 7.54 (d, J=6.9 Hz, 1H), 6.67 (d, J=10.5 Hz, 1H), 5.94 (t, J=6 Hz, 1H), 5.43 (d, J=10.2 Hz, 1H), 5.05 (m, 2H), 3.49 (m, 1H), 3.43 (s, 3H), 3.35-3.10 (s, 2H), 3.00 (t, J=7.2 Hz, 1H), 2.52 (d, J=10.2 Hz, 1H), 2.32 (quar, J=4.8 Hz, 1H), 2.02 (m, 1H), 1.74 (s, 3H), 1.69 (s, 3H), 1.67-1.64 (m, 9H), 1.55 (s, 3H), 1.44 (s, 3H), 1.29 (s, 3H).

reactant | methyl iodide | 0.477 mmol, 29 μL | CI | CH3I
reactant | gambogic acid | 0.318 mmol, 0.200 g | CC(=CCC[C@@]1(C=CC=2C(=C3C(=C(C2O1)CC=C(C)C)O[C@@]45[C@H]6C[C@@H](C=C4C3=O)C(=O)[C@@]5(OC6(C)C)C/C=C(/C)\C(=O)O)O)C)C | C38H44O8
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.318 mmol, 47.6 μL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 0.2 mL | CN(C=O)C | C3H7NO
solvent | brine | 30 mL | [Cl-].[Na+].O
product | methyl gambogate | 0.14 g, 69 % | CC(=CCC[C@@]1(C=CC2=C(C3=C(C(=C2O1)CC=C(C)C)O[C@@]45[C@H]6C[C@@H](C=C4C3=O)C(=O)[C@@]5(OC6(C)C)C/C=C(/C)\C(=O)OC)O)C)C | C39H46O8
